US08314087B2
As generally described in Molander, G. A.; Ito, T., Cross-Coupling Reactions of Potassium Alkyltrifluoroborates with Aryl and 1-Alkenyl Trifluoromethanesulfonates. Organic Letters 2001, 3, (3), 393-396, a 10 mL, Biotage microwave vessel was charged with cesium carbonate (0.460 g, 1.41 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.0517 g, 0.0706 mmol), potassium benzyltrifluoroborate (0.140 g, 0.706 mmol), 2-(2-fluoro-4-iodopyridin-3-yl)ethanol (0.1257 g, 0.471 mmol) and a stir bar. The vessel was sealed, and purged with Argon by piercing the septa with an Ar line and an 18-gauge needle. To the vessel was added 5 mL THF and 1 mL water. The needles were removed, and the vessel placed in a 90° C. heater block for 24 h. The solution was cooled. The THF was removed under a stream of nitrogen, and 5 mL CH2Cl2 was added. The biphasic solution was loaded onto a 10 mL Varian Chem elute CE 1005 and extracted with CH2Cl2 (5×10 mL). The solvent was removed in vacuo. The residue was passed through a 15 mL plug of SiO2 conditioned with CH2Cl2, and eluted with 50 mL 10% EtOH in CH2Cl2. The solvent was removed in vacuo. The sample was purified using a Waters Spherisorb S5 column (20×250 mm, 60 Å pore, 5 μm particle size); flow=20 mL/min; A=DCE, B=EtOH; isocratic at 1% B. A band that eluted from 7.7-9.3 minutes was isolated. The solvent was removed in vacuo to afford 2-(4-benzyl-2-fluoropyridin-3-yl)ethanol. 1H NMR (400 MHz, CDCl3) δ ppm 1.66 (br. s., 1 H) 2.95 (td, J=6.77, 0.44 Hz, 2H) 3.77 (dd, J=6.85, 6.46 Hz, 2 H) 4.12 (s, 2 H) 6.91 (d, J=5.18 Hz, 1 H) 7.07-7.16 (m, 2 H) 7.21-7.27 (m, 1 H) 7.31 (tt, J=7.29, 1.71 Hz, 2 H) 7.97 (d, J=5.09 Hz, 1 H). 13C NMR (101 MHz, CDCl3) δ ppm 28.81 (s, 1 C) 38.30 (d, J=3.47 Hz, 1 C) 61.64 (s, 1 C) 119.13 (d, J=30.34 Hz, 1 C) 123.24 (d, J=3.47 Hz, 1 C) 126.79 (s, 1 C) 128.80 (s, 4 C) 138.29 (s, 1 C) 144.92 (d, J=16.04 Hz, 1 C) 154.04 (d, J=5.63 Hz, 1 C) 162.88 (d, J=237.55 Hz, 1 C). MS (ESI pos. ion) m/z (MH+): 232.1, calcd for C14H14FNO+H+=232.1.

reactant | cesium carbonate | 1.41 mmol, 0.460 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium benzyltrifluoroborate | 0.706 mmol, 0.140 g | C(C1=CC=CC=C1)[B-](F)(F)F.[K+]
reactant | 2-(2-fluoro-4-iodopyridin-3-yl)ethanol | 0.471 mmol, 0.1257 g | FC1=NC=CC(=C1CCO)I | C7H7FINO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.0706 mmol, 0.0517 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-benzyl-2-fluoropyridin-3-yl)ethanol | C(C1=CC=CC=C1)C1=C(C(=NC=C1)F)CCO | C14H14FNO
